US08067445B2
Step 2: [2′-Ethylaminomethyl-6-methoxy-4′-(1-methyl-1H-pyrazol-4-yl)-biphenyl-3-yl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 33, Step 4, using the following starting materials: [2′-formyl-6-methoxy-4′-(1-methyl-1H-pyrazol-4-yl)-biphenyl-3-yl]-acetic acid ethyl ester and ethylamine (2M in THF).

reactant | [2′-formyl-6-methoxy-4′-(1-methyl-1H-pyrazol-4-yl)-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C=1C=NN(C1)C)C=O)=O | C22H22N2O4
reactant | ethylamine | 2M | C(C)N | C2H7N
product | [2′-Ethylaminomethyl-6-methoxy-4′-(1-methyl-1H-pyrazol-4-yl)-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C=1C=NN(C1)C)CNCC)=O | C24H29N3O3
